* Differential Amplifier Circuit
* Voltage Sources
VCC 2 0 DC 15V
Vin1 1 0 DC 0V
Vin2 4 0 DC 0V
* Transistors
Q1 Vout 1 3 NPN
Q2 Vout 4 3 NPN
* Resistors
RC 2 Vout 1k
RC 2 Vout 1k
R1 1 Vin1 1k
R2 4 Vin2 1k
RE 3 0 500
RE 3 0 500
? Missing component
* Additional connections
P 3 0
